US05223499
Step 4: Preparation of 2-butyl-3-[[2'-[aminosulfonyl]-[1,1'-biphenyl]-4-yl]methyl]-6-[(1-oxopentyl)-amino]-3H-imidazo[4,5-b]pyridine
A solution of 2-butyl-3-[[2'-[[(1,1-dimethyl-ethyl)amino]sulfonyl][1,1'-biphenyl]-4-yl]methyl]-6-[(1-oxopentyl)amino]-3H-imidazo[4,5-b]pyridine (710 mg, 1.23 mmol) in trifluoroacetic acid (50 mL) was stirred at r. t. for 12 h. The mixture was concentrated, dissolved in EtOAc (40 mL) and washed with saturated aqueous Na2CO3. The organic extracts were dried (K2CO3) and concentrated to give the title compound as a solid.

reactant | 2-butyl-3-[[2'-[[(1,1-dimethyl-ethyl)amino]sulfonyl][1,1'-biphenyl]-4-yl]methyl]-6-[(1-oxopentyl)amino]-3H-imidazo[4,5-b]pyridine | 1.23 mmol, 710 mg | C(CCC)C1=NC=2C(=NC=C(C2)NC(CCCC)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)NC(C)(C)C | C32H41N5O3S
solvent | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-butyl-3-[[2'-[aminosulfonyl]-[1,1'-biphenyl]-4-yl]methyl]-6-[(1-oxopentyl)-amino]-3H-imidazo[4,5-b]pyridine | C(CCC)C1=NC=2C(=NC=C(C2)NC(CCCC)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N | C28H33N5O3S
